US06399631B1
N-(9-Ethyl-9H-carbazol-3-yl)-2-pyridin-3-yl-N-methylacetamide
To a suspension of N-(9-Ethyl-9H-carbazol-3-yl)-2-pyridin-3-yl-acetamide (329 mg, 0.899 mmol) in THF at 0° C. was added NaH (60% oil dispersion, 86 mg, 2.158 mmol), then the cooling bath removed. After stirring an additional 25 minutes methyl iodide (67 μl, 1.08 mmol) was added, and the reaction mixture stirred overnight. A portion of DMF (4 ml) was then added and stirring continued for several hours. The reaction mixture was then diluted with EtOAc and the organic layer washed with saturated aq. NaHCO3, H2O, and brine, dried (Na2SO4), and concentrated to afford the crude product as a brown oil. Chromatographic purification (silica, 10% MeOH/CH2Cl2) afforded the desired product (7 mg, 2.2% yield). MS m/z @ 344 (m+1).

reactant | N-(9-Ethyl-9H-carbazol-3-yl)-2-pyridin-3-yl-acetamide | 0.899 mmol, 329 mg | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)NC(CC=1C=NC=CC1)=O | C21H19N3O
reactant | NaH | 2.158 mmol, 86 mg | [H-].[Na+]
reactant | methyl iodide | 1.08 mmol, 67 μl | CI | CH3I
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(9-Ethyl-9H-carbazol-3-yl)-2-pyridin-3-yl-N-methylacetamide | 7 mg, 2.2% yield | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N(C(CC=1C=NC=CC1)=O)C | C22H21N3O
